US09428490B2
(Z)-3-(3-(3,5-Bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid (0.3 g, 1 eq.) dissolved in ethylacetate (20 mL) and cooled to −70° C. where tert-butyl-2,6-diazaspiro[3.4]octane-2-carboxylate (0.22 g, 1.2 eq.), T3P (50% in EtOAc) (0.61 mL, 1.2 eq.), followed by DIPEA (0.6 mL, 4 eq) were added. The clear reaction mixture was stirred at −60° C. for 1 h, concentrated under reduced pressure (25° C., 20 mm Hg) to afford the crude product, which was purified by chromatography (3-4% Methanol in DCM) to yield (Z)-tert-butyl 6-(3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acryloyl)-2,6-diazaspiro[3.4]octane-2-carboxylate (0.2 g; 43% yield).

reactant | (Z)-3-(3-(3,5-Bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid | 0.3 g, 1 eq. | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)O)(F)F | C13H7F6N3O2
reactant | tert-butyl-2,6-diazaspiro[3.4]octane-2-carboxylate | 0.22 g, 1.2 eq. | C(C)(C)(C)OC(=O)N1CC2(C1)CNCC2 | C11H20N2O2
reactant | T3P | 0.61 mL, 1.2 eq. | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | DIPEA | 0.6 mL, 4 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | ethylacetate | 20 mL | C(C)OC(C)=O | C4H8O2
product | (Z)-tert-butyl 6-(3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acryloyl)-2,6-diazaspiro[3.4]octane-2-carboxylate | 0.2 g, 43% yield | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)N1CC2(CN(C2)C(=O)OC(C)(C)C)CC1)(F)F | C24H25F6N5O3
